US06184381B2
6,7-Dimethoxy-l-methyl-3,4-dihydroxyisoquinoline (Table 6-2a)(1.03 g, 5 mmol) and a ruthenium catalyst (Table 7)(R, R)-1a (16 mg, 0.025 mmol) were dissolved in acetonitrile (10 ml), followed by addition of a mixture of formic acid-triethylamine (5:2), for agitation at 28° C. for 3 hours. To the reaction mixture was added an aqueous sodium carbonate solution to extract the product in ethyl acetate. After evaporation of the solvent, 1H-NMR(CDCl3) of the resulting product was measured to calculate the conversion. Then, the product was purified by silica gel chromatography, to determine the optical purity and absolute configuration of the resulting optically active amine by HPLC or GLC. As collectively shown in Table 8, (S)-6,7-dimethoxy-l-methyl-1,2,3,4-tetrahydroisoquinoline (1.02 g, yield of 99%, 96% ee) was obtained.

reactant | 6,7-Dimethoxy-l-methyl-3,4-dihydroxyisoquinoline | 5 mmol, 1.03 g | COC=1C=C2C(=C(N=C(C2=CC1OC)C)O)O | C12H13NO4
reactant | formic acid-triethylamine | C(C)N(CC)CC.C(=O)O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | ruthenium | [Ru] | Ru
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (S)-6,7-dimethoxy-l-methyl-1,2,3,4-tetrahydroisoquinoline | 1.02 g, yield of 99% | COC=1C=C2CCN[C@H](C2=CC1OC)C | C12H17NO2
